US03932465
A solution of 3.4 g of thiophene in 200 ml of trifluoroacetic acid is mixed with 4 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and the solution is left to stand for 15 minutes at room temperature and then mixed with an equal quantity of toluene, and the mixture is evaporated under reduced pressure. The residue is triturated with acetic acid ethyl ester and the solid material is twice crystallised from a mixture of methanol and acetic acid ethyl ester. 7-(N-Phenylacetyl-amino)-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid is thus obtained as colourless crystals, melting point 189°C; thin layer chromatogram (silica gel): Rf = 0.72 (system n-butanol/acetic acid/water, 75:7.5:21), Rf = 0.81 (system n-butanol/acetic acid/water, 67:10:23) and Rf = 0.50 (system n-butanol/ethanol/water, 40:10:50); ultraviolet absorption spectrum (in methanol):λmax = 233 mμ (ε = 15400); infrared absorption spectrum (in mineral oil): characteristic bands at 3.01μ, 5.73μ, 5.82μ and 6.05μ. A further quantity of the desired product can be obtained by concentrating the mother liquor and recrystallising the crystalline material.

reactant | thiophene | 3.4 g | S1C=CC=C1 | C4H4S
reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 4 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(N-Phenylacetyl-amino)-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)CC2=CC=CS2)C(=O)O)C1=O | C20H18N2O4S2
